US04511573
An aqueous solution of 10.5 g of 2-(3-pyridyl)-3-(5-carboxypentyl)-indole hydrochloride is neutralized to about pH 7 with saturated sodium bicarbonate solution and extracted with ether. The ether extract is dried and concentrated in vacuo to yield 2-(3-pyridyl)-3-(5-carboxypentyl)-indole.

reactant | 2-(3-pyridyl)-3-(5-carboxypentyl)-indole hydrochloride | 10.5 g | Cl.N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1CCCCCC(=O)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-(3-pyridyl)-3-(5-carboxypentyl)-indole | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1CCCCCC(=O)O | C19H20N2O2
